US06670372B2
1-(2-Phenoxyethyl)-1H-imidazo[4,5-c]quinolin-4-amine
2-(4-Amino-1H-imidazo[4,5-c]quinolin-1-yl)ethanol (25 mg, 0.108 mmol) and N,N-dimethylformamide (1 mL) were combined. Phenol (12 mg, 0.130 mmol) and triphenylphosphine (34 mg, 0.130 mmol) were added and the resulting slurry was sonicated for about 1 minute. Diethyl azodicarboxylate (23 mg, 0.130 mmol) was added and the reaction mixture was shaken at ambient temperature for 24 hours. Analysis by LC-MS showed that a major amount of starting material remained. An additional equivalent each of phenol, triphenylphosphine and diethyl azodicarboxylate were added. The reaction mixture was sonicated for 30 minutes. After 1 hour analysis by LC-MS showed product. The solvent was removed and the residue was purified by semi-preparative HPLC using Method A. Mass Measurement: TM=304, NM[M+H]+1=305.

reactant | 2-(4-Amino-1H-imidazo[4,5-c]quinolin-1-yl)ethanol | 0.108 mmol, 25 mg | NC1=NC=2C=CC=CC2C2=C1N=CN2CCO | C12H12N4O
reactant | Phenol | 0.130 mmol, 12 mg | C1(=CC=CC=C1)O | C6H6O
reactant | triphenylphosphine | 0.130 mmol, 34 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Diethyl azodicarboxylate | 0.130 mmol, 23 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 1-(2-Phenoxyethyl)-1H-imidazo[4,5-c]quinolin-4-amine | O(C1=CC=CC=C1)CCN1C=NC=2C(=NC=3C=CC=CC3C21)N | C18H16N4O
